US05891871
7,8-Methylenedioxy-1-(4-methylphenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
The title compound was prepared from methyl 4,5-methylenedioxy-2-(4-methylbenzoyl)phenylacetate (90 mg, 0.29 mmol), hydrazine hydrate (50 μL, 0.88 mmol) and acetic acid (40 μL) in ethanol (10 mL), mp: 222°-224° C. 1H NMR (CDCl3) 8.36 (s, 1H), 7.48 (d, 2H, J=8.0), 7.23 (d, 2H, J=8.0), 6.82 (s, 1H), 6.64 (s, 1H), 6.02 (s, 2H), 3.45 (s, 2H), 2.41 (s, 3H). Anal. Calcd. for C17H14N2O3 : C, 69.38; H, 4.79; N, 9.52. Found: C, 69.14; H, 4.80; N, 9.30.

reactant | methyl 4,5-methylenedioxy-2-(4-methylbenzoyl)phenylacetate | 0.29 mmol, 90 mg | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC=C(C=C1)C)=O | C18H16O5
reactant | hydrazine hydrate | 0.88 mmol, 50 μL | O.NN
reactant | acetic acid | 40 μL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7,8-Methylenedioxy-1-(4-methylphenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | C1OC=2C(=CC3=C(CC(NN=C3C3=CC=C(C=C3)C)=O)C2)O1 | C17H14N2O3
